US08957215B2
tert-Butyl (5-{6-[(tert-butoxycarbonyl)(methyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate (53 mg, 0.11 mmol) was reacted according to the procedure used for the preparation of 2-(6-methylaminopyridin-3-yl)benzothiazol-6-amine. This gave the title compound (20 mg) as a yellow solid. 1H NMR δ 8.56 (d, 1H) 7.91 (dd, 1H) 7.63 (d, 1H) 7.12 (br q, 1H) 7.00 (d, 1H) 6.75 (dd, 1H) 6.55 (d, 1H) 5.99 (br q, 1H) 2.84 (d, 3H) 2.73 (d, 3H); MS m/z (M+H) 271.

reactant | tert-Butyl (5-{6-[(tert-butoxycarbonyl)(methyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate | 0.11 mmol, 53 mg | C(C)(C)(C)OC(=O)N(C1=CC2=C(N=C(S2)C=2C=CC(=NC2)CNC(OC(C)(C)C)=O)C=C1)C | C24H30N4O4S
reactant | 2-(6-methylaminopyridin-3-yl)benzothiazol-6-amine | CNC1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)N | C13H12N4S
product | N-Methyl-2-(6-methylaminopyridin-3-yl)benzothiazol-6-amine | 20 mg | CNC1=CC2=C(N=C(S2)C=2C=NC(=CC2)NC)C=C1 | C14H14N4S
